US05750213
First, 34.6 g of 4-bromphenol, 37.9 g of 2,3-difluorophenylboronic acid, 380 ml of dimethoxyethane, 380 ml of water, 97.8 g of cesium carbonate, and 7 g of tetrakis(triphenylphosphine)palladium were placed in a 1 L flask. The mixture was stirred under reflux for 20 hours. The reaction mixture was poured into water and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=9/1) and recrvstallized from hexane to obtain 30.9 g of 2,3-difluoro-4'-hydroxybiphenyl (Y: 75%). The compound thus obtained had a purity of 99.8% by GC and an m.p. of 132° C. to 134.4° C.

reactant | 4-bromphenol | 34.6 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2,3-difluorophenylboronic acid | 37.9 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | dimethoxyethane | 380 ml | C(OC)COC | C4H10O2
reactant | cesium carbonate | 97.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrakis(triphenylphosphine)palladium | 7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 380 ml | O | H2O
product | 2,3-difluoro-4'-hydroxybiphenyl | 30.9 g, 75% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)O | C12H8F2O
